US05644028
To a solution of5.15 g (34.5 mmol) of L-penicillamine in 50 ml of water, 3.4 ml (1.3 eq) of 37% formalin containing 8% methanol was added and the resultant mixture was stirred overnight at room temperature. To this, 7.2 ml (1.5 eq) of triethylamine and a solution of 9.07 g (1.2 eq) of di-tert-butyl dicarbonate in 50 ml of THF were added and the mixture was stirred for 8 h at room temperature, washed with ether, acidified (pH 3) by citric acid, and extracted with ethyl acetate. The organic extract was washed with 5% citric acid aqueous solution and saturated NaCl aqueous solution successively, dried over Na2SO4, evaporated under reduced pressure, and crystallized in hexane to give 8.39 g (Y. 92%) of (R)-3-tert-butoxycarbonyl-5,5-dimethyl-1,3-thiazolidine-4-carboxylic acid [Boc--Dtc--OH].

reactant | L-penicillamine | 34.5 mmol, 15 g | N[C@@H](C(C)(C)S)C(=O)O | C5H11NO2S
reactant | formalin | 3.4 ml, 1.3 eq | C=O | CH2O
reactant | triethylamine | 7.2 ml, 1.5 eq | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 9.07 g, 1.2 eq | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 50 ml | O | H2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | (R)-3-tert-butoxycarbonyl-5,5-dimethyl-1,3-thiazolidine-4-carboxylic acid | 8.39 g, 92% | C(C)(C)(C)OC(=O)N1CSC([C@H]1C(=O)O)(C)C | C11H19NO4S
